datasets/10k_Mayr_OG.csv
SMILES Labelled
"COC(=O)[C@@H]1CCC[N:12]1[C:11]1=[CH:10]CCCC1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>COC(=O)[C@@H]1CCC[N+:12]1=[C:11]1CCCC[CH:10]1[CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.CC[NH:10]CC>>CC[NH+:10](CC)[CH2:20][CH-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34] 10=20;20,21=21"
C[C-:10]([C:61](C)=[O:62])[C:71](C)=[O:72].F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:10]([C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)([C:61](C)=[O:62])[C:71](C)=[O:72] 10=20
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:13](C)=[CH:12][CH:11]=[CH2:10]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][CH:11]=[CH:12][C+:13](C)C)([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12"
"C[C:11]1=[N:10]CC[NH:12]1.O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[C:11]1=[NH+:12]CC[N:10]1[CH:20]([CH:21]=[CH:22][N:23]1C2=C(C=CC=C2)CC1C(=O)[O-])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH:11]=[CH2:10].N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH+:11][CH2:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25]>>C[C:21]([CH:20]([CH2:10][CH+:11][CH2:62][Si:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](N)[O-:25] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH+:20]2.CC(C)C1=CC=CC(C(C)C)=C1[N:62]1[P:11]([H:10])[N:72](C2=C(C(C)C)C=CC=C2C(C)C)[CH:64]=[CH:63]1>>C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH:20]2[H:10].CC(C)C1=CC=CC(C(C)C)=C1[N:62]1[P+:11][N:72](C2=C(C(C)C)C=CC=C2C(C)C)[CH:64]=[CH:63]1 10,11=10,20"
"CC(C)(C)[N:62]1[P:11]([H:10])[N:72](C(C)(C)C)[C:64]2=[C:63]1C=CC=C2.N#C[C:20]1=[C:21](C#N)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>CC(C)(C)[N:62]1[P+:11][N:72](C(C)(C)C)[C:64]2=[C:63]1C=CC=C2.N#C[C:20]1([H:10])[C:21](C#N)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C:11]([H:10])([CH:12]=[CH2:13])[CH:72]=[CH2:73]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)=[CH:22]1.C[C:11](=[CH:12][CH2+:13])[CH:72]=[CH2:73] 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C[Si](C)(C)[N:12]1[CH:11]=[N:10][CH:64]=[CH:63]1.[O-][N+:22]([C:21]1=[CH:20]N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)=[O:23]>>C[Si](C)(C)[N+:12]1=[CH:11][N:10]([CH:20]2N3N=N[N:35]=[C:34]3[CH:33]=[CH:32][C:21]2=[N+:22]([O-])[O-:23])[CH:64]=[CH:63]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)[Si:63](C(C)C)(C(C)C)[O:12][C:11](C)=[CH2:10].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC(C)[Si:63](C(C)C)(C(C)C)[O+:12]=[C:11](C)[CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CCN1CC[N:14]2CCN(CC)[C:62]3=[CH:61][N:10]=[CH:11][C:12]1=[C:13]23>>CCN1CC[N+:14]2=[C:13]3[C:12]1=[CH:11][N:10]([CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)[C:41]1=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]1)[CH:61]=[C:62]3N(CC)CC2 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
"C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[CH2:62][C:11](C)=[CH2:10].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:34]([N+](=O)[O-])=[CH:33]1>>C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[CH2:62][C+:11](C)[CH2:10][CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[CH:33]=[C:34]1[N+](=O)[O-] 10,11=10,20;20,21=21,22;22,23=23"
